US05578627
To a suspension of 3.28 g of 3-(3-carbamoyloxy-2-tert-butoxycarbonylaminopropoxy)-5-chloro-1,2-benzoisoxazole in 33 ml of chloroform and 33 ml of methanol is added 7.1 ml of conc hydrochloric acid at 20°-25° C., and they are subjected to reaction at the same temperature overnight. The solvent is removed from the reaction mixture by distillation under reduced pressure, and ethyl acetate and water are added to the residue obtained. After shaking, the aqueous layer is separated. To the separated aqueous layer is again added ethyl acetate, and the pH is adjusted to 10 with a 10% (w/w) aqueous sodium hydroxide solution, after which the organic layer is separated. The separated organic layer is washed with a saturated saline solution and dried over anhydrous magnesium sulfate, after which the solvent is removed by distillation under reduced pressure. The crystals obtained are dissolved in 66 ml of ethanol, and to this solution is added 4.5 ml of a dioxane solution (2.2N) of hydrogen chloride at 20°-25° C., after which the crystals precipitated are collected by filtration, to obtain 2.16 g of colorless, crystalline 3-(2-amino-3-carbamoyloxypropoxy)-5-chloro-1,2-benzoisoxazole hydrochloride having a melting point of 215°-216° C.

reactant | 3-(3-carbamoyloxy-2-tert-butoxycarbonylaminopropoxy)-5-chloro-1,2-benzoisoxazole | 3.28 g | C(N)(=O)OCC(COC1=NOC2=C1C=C(C=C2)Cl)NC(=O)OC(C)(C)C | C16H20ClN3O6
reactant | hydrochloric acid | 7.1 ml | Cl | ClH
reactant | dioxane | 2.2N, 4.5 ml | O1CCOCC1 | C4H8O2
solvent | chloroform | 33 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 33 ml | CO | CH4O
solvent | ethanol | 66 ml | C(C)O | C2H6O
product | 3-(2-amino-3-carbamoyloxypropoxy)-5-chloro-1,2-benzoisoxazole hydrochloride | Cl.NC(COC1=NOC2=C1C=C(C=C2)Cl)COC(N)=O | InChI=1S/C11H12ClN3O4.ClH/c12-6-1-2-9-8(3-6)10(15-19-9)17-4-7(13)5-18-11(14)16;/h1-3,7H,4-5,13H2,(H2,14,16);1H
